US09447073B2
Preparation of 2-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)-5-(2,2,2-trifluoroethoxy)pyridine (C8)
To a magnetically stirred mixture of 6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-ol (600 mg, 2.005 mmol) and K2CO3 (305 mg, 2.206 mmol) in acetone (6.76 mL) was added 2,2,2-trifluoroethyl trifluoromethanesulfonate (558 mg, 2.406 mmol) in a 20 mL vial under an atmosphere of air. The reaction mixture was stirred at 25° C. for 16 h. As the reaction progressed the reaction mixture became a cloudy beige suspension. The reaction was quenched with MeOH (2 mL) and then volatiles were removed under a gentle stream of N2. The resulting residue was partitioned with water and CH2Cl2 and the organic layer was removed. The aqueous layer was washed CH2Cl2 (2×) and combined organic layers were dried by passing through a phase separator. Volatiles were removed under a gentle stream of N2 and the crude orange oil was carried on without further purification (779 mg, 97%): 1H NMR (400 MHz, CDCl3) δ 8.40 (d, J=2.9 Hz, 1H), 7.46 (d, J=8.7 Hz, 1H), 7.38 (dd, J=14.7, 8.2 Hz, 1H), 7.28 (d, J=2.9 Hz, 1H), 6.88-6.80 (m, 1H), 6.78-6.71 (m, 1H), 4.44 (q, J=7.9 Hz, 2H), 3.43 (d, J=5.1 Hz, 1H), 3.00-2.95 (m, 1H); 19F NMR (376 MHz, CDCl3) δ −73.75 (s, 3F), −107.01 (dd, J=257.0, 8.5 Hz, 1F), −107.55-−108.43 (m, 2F), −109.41 (q, J=8.5 Hz, 1F). ESIMS m/z 382 ([M+H]+).

reactant | 6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-ol | 2.005 mmol, 600 mg | FC1=C(C=CC(=C1)F)C1(OC1)C(C1=CC=C(C=N1)O)(F)F | C14H9F4NO2
reactant | K2CO3 | 2.206 mmol, 305 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 2.406 mmol, 558 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | acetone | 6.76 mL | CC(=O)C | C3H6O
product | 2-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)-5-(2,2,2-trifluoroethoxy)pyridine | FC1=C(C=CC(=C1)F)C1(OC1)C(C1=NC=C(C=C1)OCC(F)(F)F)(F)F | C16H10F7NO2
